US04551460
A solution of 58.8 g of N-[4-(1H-imidazol-1-yl)butyl]formamide in 480 ml of dry tetrahydrofuran was treated with 87.0 ml of 10 Molar borane methyl sulfide complex in tetrahydrofuran. The reaction mixture was heated to reflux for 18 hours under an argon atmosphere, cooled in an ice bath and quenched with 400 ml of methanol. The solvent was removed, the methanol addition and evaporation repeated, and the residue was made acidic with hydrochloric acid and was stirred over night. The mixture was made basic with sodium hydroxide solution and was extracted with dichloromethane. The combined organic layers were dried over potassium carbonate and evaporated to give an oil which was distilled to give 35.9 g (68%) of 4-(1H-imidazol-1-yl)-N-methylbutanamine, bp 130°-135° C./0.3 mm. The product was further characterized as the picrate, mp 111-113.

reactant | N-[4-(1H-imidazol-1-yl)butyl]formamide | 58.8 g | N1(C=NC=C1)CCCCNC=O | C8H13N3O
solvent | tetrahydrofuran | 480 ml | O1CCCC1 | C4H8O
product | 4-(1H-imidazol-1-yl)-N-methylbutanamine | 35.9 g, 68% | N1(C=NC=C1)CCCCNC | C8H15N3
